US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, the reaction of 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine with 3,4-dimethoxyaniline gave N2-(3,4-dimethoxyphenyl)-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.90 (d, 1H, J=6.6 Hz), 7.59 (bs, 1H), 7.30 (s, 1H), 7.20–7.10 (m, 2H), 7.00–6.75 (m, 4H), 6.59 (bd, 1H, J=7.8 Hz), 3.87 (s, 3H), 3.84 (s, 3H); 19F NMR (CDCl3): −47229; LCMS: ret. time: 17.77 min.; purity: 78%; MS (m/e): 357 (MH+).

reactant | 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C10H7ClFN3O
reactant | 3,4-dimethoxyaniline | COC=1C=C(N)C=CC1OC | C8H11NO2
product | N2-(3,4-dimethoxyphenyl)-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine | COC=1C=C(C=CC1OC)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C18H17FN4O3
